US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.5 g) and [(1-benzylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (2.22 g) as starting materials, N-[(1-benzylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.64 g) was obtained.

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.5 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | [(1-benzylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 2.22 g | C(C1=CC=CC=C1)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C20H23N3
product | N-[(1-benzylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.64 g | C(C1=CC=CC=C1)N1N=CC(=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C | C32H35N3O2
